US07576215B2
3-BENZYL-4-[3-(1-PHENYLETHOXY)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLINE
This compound was prepared according to the procedure of example 69, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenol and 1-phenyl-ethanol. MS (ESI) m/z 484.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenol | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)O)C(F)(F)F | C23H16F3NO
reactant | 1-phenyl-ethanol | C1(=CC=CC=C1)C(C)O | C8H10O
product | 3-BENZYL-4-[3-(1-PHENYLETHOXY)PHENYL]-8-(TRIFLUOROMETHYL)QUINOLINE | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C1=CC(=CC=C1)OC(C)C1=CC=CC=C1)C(F)(F)F | C31H24F3NO
